US05859088
1-Hexene/propylene copolymer (S-2)
A reaction vessel equipped with a mechanical stirrer, reflux condenser, and temperature control was dried and filled with nitrogen. The vessel was charged with 400 g of 1-hexene (from Ethyl Corp.), the temperature was adjusted to 25° C., and hydrogen (Oxygen Services ultra high purity) bubbled in at a rate of about 60 mL/min. 2.2 nL of a 1.8M solution of diethylaluminum chloride (from Aldrich Chemical Co.) was added followed by the addition of 0.4 g AATiCl3 and immediately propylene was bubbled into the reaction mixture at about 60 mL/min for 30 minutes. Methanol (20 mL) was added to terminate the polymerization and the polymer precipitated in excess methanol to extract the catalyst residues. A tacky amorphous polymer was obtained in 72% conversion having an inherent viscosity of 5.7 dL/g in n-hexane and a Tg of -32° C. 3C NMR analysis indicated that the polymer contained 87 mole percent of 1-hexene and 13 mole percent of propylene.

reactant | 1-hexene | C=CCCCC | C6H12
reactant | propylene | C=CC | C3H6
solvent | n-hexane | CCCCCC | C6H14
product | 1-Hexene propylene | C=CCCCC.C=CC | InChI=1S/C6H12.C3H6/c1-3-5-6-4-2;1-3-2/h3H,1,4-6H2,2H3;3H,1H2,2H3
